US08372874B2
Step 3: Synthesis of 3-[2-(2-Methoxy-ethoxy)-1,1-dimethyl-ethyl]-isoxazol-5-ylamine
To a stirred solution of 5-(2-methoxy-ethoxy)-4,4-dimethyl-3-oxo-pentanenitrile (3.04 g, 15.27 mmol) and sodium hydroxide (1.31 g, 32.82 mmol) in water (34 mL) is added hydroxylamine sulfate (1.25 g, 7.63 mmol). The reaction mixture is stirred at reflux for 18 h. After this time, the reaction mixture is cooled to room temperature and extracted with ethyl acetate 3 times. The organic layers are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by flash chromatography on silica gel using methanol/DCM provides the title compound. Yield: 35.8%. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.30 (6H, s), 3.39 (3H, s), 3.50 (2H, s), 3.50-3.57 (2H, m), 3.57-3.62 (2H, m), 3.30-4.50 (2H, br), 5.16 (1H, s).

reactant | 5-(2-methoxy-ethoxy)-4,4-dimethyl-3-oxo-pentanenitrile | 15.27 mmol, 3.04 g | COCCOCC(C(CC#N)=O)(C)C | C10H17NO3
reactant | sodium hydroxide | 32.82 mmol, 1.31 g | [OH-].[Na+]
reactant | hydroxylamine sulfate | 7.63 mmol, 1.25 g | S(=O)(=O)(O)O.NO
solvent | water | 34 mL | O | H2O
product | 3-[2-(2-Methoxy-ethoxy)-1,1-dimethyl-ethyl]-isoxazol-5-ylamine | Yield: 35.8% | COCCOCC(C)(C)C1=NOC(=C1)N | C10H18N2O3
